US08039466B2
1.xii. (R)-3-(3-fluoro-4-hydroxy-phenyl)-5-hydroxymethyl-oxazolidin-2-one
A solution of (R)-3-(4-benzyloxy-3-fluoro-phenyl)-5-hydroxymethyl-oxazolidin-2-one (6.34 g, prepared according to WO 2004/096221) in THF/MeOH (1:1; 200 ml) was hydrogenated over Pd/C 10% (1 g) overnight. The catalyst was filtered off, the filtrate evaporated under reduced pressure and the residue stirred in EA. The crystals were collected by filtration affording 3.16 g (70% yield) of a colourless solid.

reactant | (R)-3-(4-benzyloxy-3-fluoro-phenyl)-5-hydroxymethyl-oxazolidin-2-one | 6.34 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)N1C(O[C@H](C1)CO)=O)F | C17H16FNO4
solvent | THF MeOH | 200 ml | C1CCOC1.CO
catalyst | Pd/C | 1 g | [Pd] | Pd
product | (R)-3-(3-fluoro-4-hydroxy-phenyl)-5-hydroxymethyl-oxazolidin-2-one | 3.16 g, 70% yield | FC=1C=C(C=CC1O)N1C(O[C@H](C1)CO)=O | C10H10FNO4
